US07598391B2
1-[2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylmethyl]-pyrrolidine-2 (R)-carboxylic acid benzyl ester
Prepared as described in general procedure (P) using 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea (75 mg. 0.223 mmol), pyrrolidine-2 (R)-carboxylic acid benzyl ester hydrochloride (73 mg, 0.31 mmol) and sodium triacetoxyborohydride (71 mg, 0.335 mmol) to afford 92 mg (78%) of the desired product after purification.

reactant | 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea | 0.223 mmol, 75 mg | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)C=O)C1CCCCC1 | C17H25N3O2S
reactant | pyrrolidine-2 (R)-carboxylic acid benzyl ester hydrochloride | 0.31 mmol, 73 mg | Cl.C(C1=CC=CC=C1)OC(=O)[C@@H]1NCCC1
reactant | sodium triacetoxyborohydride | 0.335 mmol, 71 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 1-[2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylmethyl]-pyrrolidine-2 (R)-carboxylic acid benzyl ester | 92 mg, 78% | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)CC1=CN=C(S1)NC(=O)N(C1CCCCC1)C1CCCCC1 | C29H40N4O3S
